US07968720B2
3-(4-Chloro-3-hydroxymethyl-phenyl)-N-methyl-propionamide
MeNH2 (2M in THF, 28.0 mL, 56.1 mmol) and TBTU (1.98 g, 6.17 mmol) were added to a sol. of 3-(4-chloro-3-hydroxymethyl-phenyl)-propionic acid (1.20 g, 5.59 mmol) in CH2Cl2 (42 mL). The mixture was stirred at rt for 2.5 h, and CH2Cl2 (150 mL) was added. The mixture was washed with brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (MeOH/CH2Cl2 1:9) yielded the title compound (250 mg, 20%). LC-MS: tR=0.67 min; ES+: 269.34.

reactant | MeNH2 | 56.1 mmol, 2M, 28.0 mL | CN | CH5N
reactant | TBTU | 6.17 mmol, 1.98 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-(4-chloro-3-hydroxymethyl-phenyl)-propionic acid | 5.59 mmol, 1.20 g | ClC1=C(C=C(C=C1)CCC(=O)O)CO | C10H11ClO3
solvent | CH2Cl2 | 42 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Chloro-3-hydroxymethyl-phenyl)-N-methyl-propionamide | 250 mg, 20% | ClC1=C(C=C(C=C1)CCC(=O)NC)CO | C11H14ClNO2
